US05391569
Step A: 3-Acetyl-6-bromo-2H-chromene
A heterogeneous solution of 100 g (497 mmol) of 5-bromo-2-hydroxybenzaldehyde and 13.8 g (10 mmol) of potassium carbonate (previously finely ground and dried at 90° C.) in 220 ml of butan-2-one is brought to reflux. A solution of 35.31 g (i.e. 42 ml, 497 mmol) of but-3-en-2-one in 40 ml of butan-2-one is then added dropwise over a period of from 15 to 20 minutes. After 4 hours' refluxing, 13.8 g (10 mmol) of potassium carbonate are added. The mixture is refluxed for 16 hours. When the reaction mixture has returned to room temperature, the solid is separated off by filtration and then washed with 2×50 ml of butan-2-one. The filtrate is then concentrated and the residue is purified by chromatography over a silica column (eluant: methylene chloride/cyclohexane, 1:1). Recrystallisation from diisopropyl ether yields 73 g of a yellowish solid.

reactant | 5-bromo-2-hydroxybenzaldehyde | 497 mmol, 100 g | BrC=1C=CC(=C(C=O)C1)O | C7H5BrO2
reactant | potassium carbonate | 10 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | but-3-en-2-one | 497 mmol, 42 ml, 35.31 g | CC(C=C)=O | C4H6O
reactant | potassium carbonate | 10 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | 220 ml | CC(CC)=O | C4H8O
solvent | butan-2-one | 40 ml | CC(CC)=O | C4H8O
product | 3-Acetyl-6-bromo-2H-chromene | 73 g, Yield: 58% | C(C)(=O)C=1COC2=CC=C(C=C2C1)Br | C11H9BrO2
